US05929082
N-[(4-Methylphenyl)sulphonyl]-N'-(4,6-dimethylpyrimid-2-yl)thiourea (1.1 g, 3.4 mmol) and 1,3-dicyclohexylcarbodiimide (12 g, 4.6 mmol) were stirred at room temperature in acetonitrile (10 ml). To this stirring mixture was added cyanamide (0.3 g, 7 mmol) and a catalytic amount of diisopropylethylamine (5 drops), and the mixture allowed to stir at room temperature for 3 days. The solvent was then removed under vacuum, sodium hydroxide (1M, 10 ml) added with stirring and any solid removed by filtration. The aqueous phase was then acidified with hydrochloric acid (1M), and the precipitate collected by filtration. Recrystallisation from methanol gave N,N'-di-[(4-methylphenyl)sulphonyl]-N"-(4,6-dimethylpyrimid-2-yl)guanidine (157 mg, 10%), m.p. 171-172° C. dec. νmax (KBr disc) 3267w, 3232w, 3065w, 2925w, 1634s, 1618s, 1610s, 1541s, 1492m, 1438m, 1346m, 1164m, 1075w, 896w, 815w, 749w, 674w, 547 cm-1. 1H n.m.r. spectrum (300 MHz): δ 2.41, s, 2×CH3'; 2.48, s, CH3 ; 2.50, s, CH3 ; 2.59, sbr, NH; 6.88-8.07, m, 9H; 10.21, sbr, NH. Mass spectrum: m/z 474 (M+1, 91%), 426 (100), 363 (16), 320 (100), 272 (57), 258 (10), 234 (7), 209 (29), 189 (71), 166 (15), 149 (9), 124 (73), 108 (11).

reactant | N-[(4-Methylphenyl)sulphonyl]-N'-(4,6-dimethylpyrimid-2-yl)thiourea | 3.4 mmol, 1.1 g | CC1=CC=C(C=C1)S(=O)(=O)NC(=S)NC1=NC(=CC(=N1)C)C | C14H16N4O2S2
reactant | 1,3-dicyclohexylcarbodiimide | 4.6 mmol, 12 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | cyanamide | 7 mmol, 0.3 g | N#CN | CH2N2
reactant | acetonitrile | 10 ml | C(C)#N | C2H3N
catalyst | diisopropylethylamine | 5 drops | C(C)(C)N(CC)C(C)C | C8H19N
product | N,N'-di-[(4-methylphenyl)sulphonyl]-N"-(4,6-dimethylpyrimid-2-yl)guanidine | 157 mg, 10% | CC1=CC=C(C=C1)S(=O)(=O)NC(=NC1=NC(=CC(=N1)C)C)NS(=O)(=O)C1=CC=C(C=C1)C | C21H23N5O4S2
